US07192968B2
2-(trans-Styryl)-4-vinyloxazole
n-Butyllithium (1.54N hexane solution, 14.2 ml) was added dropwise to a solution of methyl-triphenylphosphonium bromide (8.16 g) in tetrahydrofuran (80 ml) at 0° C., and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was cooled again to 0° C., a solution of 4-formyl-2-(trans-styryl)oxazole (3.64 g) in tetrahydrofuran (20 ml) was added, and the mixture was warmed to room temperature. After stirring for 2 hours, water (200 ml) and ethyl acetate (100 ml) were added and an organic layer was separated. The water layer was extracted with ethyl acetate (50 ml). After the organic layers were combined, washed with saturated saline (100 ml) and dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=4:1→3:1) to obtain the title compound (2.84 g) as a pale yellow oil.

reactant | n-Butyllithium | 1.54N, 14.2 ml | C(CCC)[Li]
reactant | 4-formyl-2-(trans-styryl)oxazole | 3.64 g | C(=O)C=1N=C(OC1)\C=C\C1=CC=CC=C1 | C12H9NO2
reactant | water | 200 ml | O | H2O
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | methyl-triphenylphosphonium bromide | 8.16 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(trans-Styryl)-4-vinyloxazole | 2.84 g | C(=C\C1=CC=CC=C1)/C=1OC=C(N1)C=C | C13H11NO
